US05258361
2-chloro-4,6-bis(ethylamino)-s-triazine;
2-chloro-4-ethylamino-6-isopropylamino-s-triazine; 2-chloro-4,6-bis(methoxy-n-propylamino)-s-triazine; 2-methoxy-4,6-bis(isopropylamino)-s-triazine; 2-chloro-4-ethylamino-6-(3-methoxy-n-propylamino)-s-triazine; 2-methylmercapto-4,6-bis(isopropylamino)-s-triazine; 2-methylmercapto-4,6-bis(ethylamino)-2-triazine; 2-methylmercapto-4-ethylamino-6-isopropylamino-s-triazine; 2-chloro-4,6-bis(isopropylamino)-s-triazine; 2-methoxy-4-ethylamino-6-isopropylamino-s-triazine; 2-methylmercapto-4-(2-methoxyethylamino)-6-isopropylamino-s-triazine; 4-amino-6-(t-butyl)-3-(methylthio)-1,2,4-triazine-5(4H)-one.

reactant | 2-chloro-4-ethylamino-6-isopropylamino-s-triazine | ClC1=NC(=NC(=N1)NCC)NC(C)C | C8H14ClN5
reactant | 2-chloro-4,6-bis(methoxy-n-propylamino)-s-triazine | ClC1=NC(=NC(=N1)N(CCC)OC)N(CCC)OC | C11H20ClN5O2
reactant | 2-methoxy-4,6-bis(isopropylamino)-s-triazine | COC1=NC(=NC(=N1)NC(C)C)NC(C)C | C10H19N5O
reactant | 2-chloro-4-ethylamino-6-(3-methoxy-n-propylamino)-s-triazine | ClC1=NC(=NC(=N1)NCC)NCCCOC | C9H16ClN5O
reactant | 2-methylmercapto-4,6-bis(isopropylamino)-s-triazine | CSC1=NC(=NC(=N1)NC(C)C)NC(C)C | C10H19N5S
reactant | 2-methylmercapto-4-ethylamino-6-isopropylamino-s-triazine | CSC1=NC(=NC(=N1)NCC)NC(C)C | C9H17N5S
reactant | 2-chloro-4,6-bis(isopropylamino)-s-triazine | ClC1=NC(=NC(=N1)NC(C)C)NC(C)C | C9H16ClN5
reactant | 2-methoxy-4-ethylamino-6-isopropylamino-s-triazine | COC1=NC(=NC(=N1)NCC)NC(C)C | C9H17N5O
reactant | 2-methylmercapto-4-(2-methoxyethylamino)-6-isopropylamino-s-triazine | CSC1=NC(=NC(=N1)NCCOC)NC(C)C | C10H19N5OS
reactant | 4-amino-6-(t-butyl)-3-(methylthio)-1,2,4-triazine-5(4H)-one | NN1C(=NN=C(C1=O)C(C)(C)C)SC | C8H14N4OS
product | 2-chloro-4,6-bis(ethylamino)-s-triazine | ClC1=NC(=NC(=N1)NCC)NCC | C7H12ClN5
